Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Adhesive Tape
 
Attending: ___.
 
Chief Complaint:
Melena  
 
Major Surgical or Invasive Procedure:
___: GI Bleeding study
___: Sigmoidoscopy
___: GI Bleeding study
___: Colonoscopy and EGD
___: Angiogram, no intervention
___: Exploratory laparotomy, intraoperative
endoscopy.

___: Post pyloric feeding tube placement
 
History of Present Illness:
___ year-old male with hepatitis C cirrhosis s/p liver transplant 
with recurrent hepatitis C complicated by ascites/ 
encephalopathy/ varices (3 cords Grade I varices)/ portal 
hypertensive gastropathy/chronic portal and splenic venous 
thrombosis, recently discharged from ___ yesterday with upper 
GI bleed, who presents with recurrent melena. He reports he 
arrived home yesterday and ate a seafood salad with several dk 
brown stools last night and some abd cramping.  Pt this AM had 
black loose stool with abdominal cramping.
    
The patient was hospitalized at ___ from ___ for 
melanotic stools. He was admitted to the MICU for hemodynamic 
monitoring. GI performed endoscopy on ___ which showed 
non-bleeding esophageal and gastric varices, portal hypertensive 
gastropathy, and a bleeding polyp noted in proximal body of 
stomach injected with epinephrine with hemostasis, as well as a 
colonoscopy on ___ and old blood. He received 3 U PRBCs, his 
Hct remained stable at 27, and he was called out to ___ 
on ___, where his stools were noted to clear prior to 
discharged home. 
   
In the ED, 97.9 77 95/47 18 100% on RA. Pt noted to be alert and 
mentating well. NG lavage not performed. Laboratory data 
significant for hematocrit 26 (baseline 31) and Cre of 1.4 
(baseline 0.8). Patient was noted to become hypotensive to 68 
SBP and was treated with 2 L NS given wide open-> response of 
SBPs to ___, and 1 U PRBCs with second unit written for. GI saw 
the patient, recommended tagged RBC scan and plan for repeat 
EGD. On transfer to MICU, VS were afebrile 63 ___ 100%  
     
On the floor vitals were 109/54 HR70 RR18 99%RA, pt reports 
feeling well. Reports nonproductive cough, longstanding. 
Possible palpitations last night. Denies dizziness, weakness, 
chest pain, shortness of breath. Reports occasional cramping in 
lower abdomen. Denies nausea, vomiting, dysuria, hematuria, 
weakness, numbness, muscle aches, bruising.  

 
Past Medical History:
-Hepatitis C  
-ESLD s/p liver Tx ___, s/p revision ___ complicated with  

rejection and steroid use since ___ to present; also  
complicated with Hepatitis C recurrence and restarted peg  
interferon ___. Hep C possibly contracted from tatoo ___.  
-Chronic pancreatitis  
-Primary hypogonadism  
-ITP  
-SVT last episode approximately ___, medically managed at this 
time (atenolol)  
-Thoracic compression fractures: ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal  

septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent  
HBA1C 5.1 % (had received blood transfusions with splenectomy), 
insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair 
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___ 
at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p stent and 
then removal ___  
-History of peripancreatic abscess ___  

 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown 
site). Denies any family history of MI, sudden cardiac death, 
stroke and lung diseases has DM2  

 
Physical Exam:
General: Alert, oriented, comfortable  
HEENT: Sclera anicteric, dry mucous membranes  
Neck: JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, II/VI early 
systolic murmur LUSB  
Abdomen: Normoactive bowel sounds, prior incision scars noted, 
soft, non-tender  
GU: No foley  
Rectal: Per ED, guaiac positive brown stool  
Ext: Thin; warm, well perfused, 2+ pulses, no clubbing, cyanosis 
or edema  
Neuro: No asterixis 
 
Pertinent Results:
ADMISSION LABS:
___ 04:15AM WBC-5.8 RBC-2.48* Hgb-8.5* Hct-26.1* MCV-106* 
Plt ___
___ 04:15AM Glucose-77 UreaN-22 Cr-1.0 Na-135 K-4.8 Cl-110* 
HCO3-20* 
___ 04:15AM ALT-43* AST-92* AlkPhos-236* TotBili-1.4
___ 04:15AM tacroFK-8.5
   
MICRO:
___ CMV VL: undetectable 
STUDIES:
___ RBC Scan:
Delayed imaging shows activity in the midline at the level of 
the aortic bifurcation which is likely in small bowel. There was 
no active bleeding during the time of imaging.  
   
___ KUB:
No evidence of a capsule is seen within the abdomen.
.
___: CTA
1. Multiple variceal vessels are identified in the abdomen. No 
active 
extravasation of contrast is seen to indicate a site of active 
hemorrhage. 
2. Unchanged thrombosis of the portal vein, splenic vein, and 
superior 
mesenteric vein. 
3. Fluid in the left abdominal flank is stable in size and 
morphology. 
.
___:
GI bleeding study: No evidence of active GI bleeding at the time 
of the study.

Discharge Labs: ___
WBC-8.9 RBC-2.76* Hgb-8.9* Hct-28.0* MCV-102* MCH-32.4* 
MCHC-32.0 RDW-24.5* Plt ___ PTT-39.3* ___
Glucose-106* UreaN-50* Creat-1.1 Na-138 K-5.2* Cl-106 HCO3-26 
AnGap-11
ALT-14 AST-25 AlkPhos-270* TotBili-1.1
Calcium-9.9 Phos-3.2 Mg-2.1
tacroFK-8.___ with hepatitis C cirrhosis s/p liver transplant with 
recurrent hepatitis C complicated by ascites, gastric and 
esophageal varices, and encephalopathy admitted with recurrent 
melena.   
    
1. LGIB: Reported to have melena, although at different time 
noted to have brown stool with bloody mucous. Immediate concern 
was for UGIB, particularly variceal bleeding or portal 
gastropathy in this patient with decompensated liver disease. Pt 
with small intestine ulcers on recent capsule study. EGD on ___ 
with non bleeding varices at the lower third of the esophagus 
and gastroesophageal junction, portal hypertensive gastropathy, 
polyp in proximal body of stomach, and 8 mm non bleeding polyp 
adjacent to hepatico-jejunostomy. The patient had an RBC scan, 
which showed no definite bleeding seen on 90 minute dynamic 
imaging, but activity in the rectum on left lateral is 
compatible with rectal bleeding. Pt had a sigmoidoscopy the next 
morning on ___ that noted blood coating the colon, but no e/o 
active bleeding. ___ declined angiography at this time, as it 
would be very low yield as no bleeding was noted on the RBC 
scan. Over the pt's ICU course, he was transfused 5 units pRBCs. 
The patient's HCT remained stable at 34 prior to call out to the 
floor. On the floor the patient remained hemodynamically stable 
however he continued to experience melanotic stools with a 
downward trend in his hematocrit. He became transfusion 
dependent, requiring about 2units/day. He subsequently had a 
CT-A to looked for vascular abnormalities such as scarred 
varices however this was unremarkable. A tagged red blood cell 
study was repeated which showed no source of bleeding.  The 
patient continued to have melena, requiring ___ units of PRBCs 
to maintain adequate hematocrit.  The decision was made between 
the patient and the team to proceed with an exploratory 
laparotomy and a possible endoscopy in the OR. The patient was 
taken to the OR on ___ with Dr ___. At the time of 
surgery a small enterotomy
was made longitudinally and just in the Roux limb just beyond 
the jejunojejunostomy. A colonoscope was advanced in from this 
location distally toward the terminal ileum and then withdrawn. 
No evidence of ulcerations or intramucosal or intraluminal 
pathology was identified. A second enterotomy was made distally 
in the mid to distal ileum, again transversely and then the 
colonoscope  was placed in this location and advance distally 
into the terminal ileum and then eventually into the cecum. This 
was withdrawn and again no identified lesions were noted. A 
bleeding source was not identified during the surgery.    
On POD 2 the patient had HR in the 130's and was found to be in 
Afib, he was given Beta blocker and monitored.
Hematocrit was trended, in the ensuing days he received a total 
of 4 units pRBCs. 
He was also evaluated by nutrition services. After following 
oral intakenit was determined to place a post pyloric feeding 
tube and start tube feeds.
The wound was having ascitic fluid drainage, several clips were 
removed and a VAC was placed. The patient had copius amounts of 
fluid from the VAC, and the output was repleted with 
intermittent albumin and IV fluids.
On POD 19 the patient was transferred to the SICU for increased 
confusion. A head CT was obtained which showed no evidence of 
acute intracranial abnormalities. 
The patient remained in the SICU for 8 days. He was additionally 
followed by neurology who atributed his confusion to 
encephelopathy of metabolic of infectious etiology. An LP was 
performed and infectious etiologies including cryptococcus were 
ruled out. He had been started on acyclovir pending results of 
LP, He received 6 days of this. In addition he received 6 days 
of fluconazole for yeast in the urine. An EEG showed an abnormal 
routine EEG in the waking state due to 
a mildly slow and disorganized background with frequent theta 
rhythms. 
There were no focal, lateralized, or epileptiform abnormalities 
noted. 
He also had an unremarkable BAL. He was covered with Vanco and 
meropenum, but never was febrile and all cultures were returned 
as negative and the antibiotics were discontinued.
The patient eventually cleared and was able to be transferred 
back to ___ 10. He continued to have large volume ascited from 
the wound VAC and continued with albumin and fluid replacements, 
the albumin replacement will continue upon discharge and extra 
fluids are being instilled with tube feeds.
Two days prior to discharge, he spiked a fever and had increased 
abdominal pain. His UA was concerning for a potential UTI, and 
he was covered with ciprofloxacin.  His urine cultures 
eventually returned contaminated, and the ciprofloxacin was 
dicontinued.  Additionally, his PICC line was removed and sent 
for culture, which showed no significant growth.
   
2. Acute on chronic renal failure: Creatinine 1.4 on admission, 
likely due to decreased perfusion in the setting of bleed. 
Improved to 1.0 but then elevated post op as high as 1.7. 
Medications were adjusted accordingly. With adequate hydration 
and use of albumin the patient once again returned to baseline 
creatinine of 1.1 by day of discharge.

   .  

   

 
Medications on Admission:
ALENDRONATE - 70 mg Tablet - 1 Tablet(s) by mouth weekly take 30 
 
minutes before other meds or food. Take w/ 8 oz water & remain  
upright for 30 min. after dose.  
ATENOLOL - 25 mg Tablet - 1 Tablet(s) by mouth once a day  
CLINDAMYCIN HCL - 300 mg Capsule - 2 Capsule(s) by mouth x 1 1  
hour before dental work or cleanings.  
ERGOCALCIFEROL (VITAMIN D2) - 50,000 unit Capsule - 1 Capsule(s) 
 
by mouth weekly  
LAMIVUDINE [EPIVIR HBV] - 100 mg Tablet - 1 Tablet(s) by mouth  
once a day  
LATANOPROST [XALATAN] - 0.005 % Drops - 1 Drops(s) in each eye 
HS  
(at bedtime) both eyes  
LIPASE-PROTEASE-AMYLASE [PANCREASE] - 20,000 unit-4,500  
unit-25,000 unit Capsule, Delayed Release(E.C.) - 2 Capsule(s) 
by  
mouth three times a day with meals  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 2 Capsule(s) 
 
by mouth twice a day  
SERTRALINE - 50 mg Tablet - 1 Tablet(s) by mouth once a day  
SULFAMETHOXAZOLE-TRIMETHOPRIM [BACTRIM DS] - 800 mg-160 mg 
Tablet  
- 1 Tablet(s) by mouth three times a day  
TACROLIMUS - 0.5 mg Capsule - 1 Capsule(s) by mouth twice a day  

TESTOSTERONE [ANDROGEL] - 50 mg/5 gram (1 %) Gel in Packet -  
apply one packet per day ___ (Patient should get 5 gram per  
day) - No Substitution  
TRAZODONE - 100 mg Tablet - 1 Tablet(s) by mouth HS (at bedtime) 
 
as needed for insomnia  
URSODIOL - 300 mg Capsule - 1 Capsule(s) by mouth twice a day  
ACETAMINOPHEN [TYLENOL] - 325 mg Tablet - 2 Tablet(s) by mouth  
three times ___  
CALCIUM CITRATE-VITAMIN D3 - 315 mg-200 unit Tablet - 1 
Tablet(s)  
by mouth twice a day  
SIMETHICONE - 80 mg Tablet, Chewable - 40 mg by mouth three 
times  
a day  
ZINC OXIDE [BOUDREAUXS BUTT PASTE] - 16 % Paste - Apply 
topically  
three times ___ as needed  

 
Discharge Medications:
1. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
2. Ursodiol 300 mg Capsule Sig: One (1) Capsule ___ BID (2 times 
a day).  
3. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet ___ TID (3 times a day): long term suppression for 
pancreatic abscess.  
4. Lamivudine 100 mg Tablet Sig: One (1) Tablet ___ 
(___).  
5. Lipase-Protease-Amylase 16,000-48,000 -48,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap ___ TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
6. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable ___ QID (4 times a day) as needed for heartburn. 
 
7. Ursodiol 300 mg Capsule Sig: One (1) Capsule ___ BID (2 times 
a day).  
8. Albumin, Human 25 % 25 % Parenteral Solution Sig: 12.5 grams  
Intravenous EVERY OTHER DAY (Every Other Day).  
9. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule ___ Q12H (every 
12 hours).  
10. Sertraline 50 mg Tablet Sig: 1.5 Tablets ___.  
11. Epoetin Alfa 4,000 unit/mL Solution Sig: One (1) ml 
Injection QMOWEFR (___).  
12. Rifaximin 550 mg Tablet Sig: One (1) Tablet ___ BID (2 times 
a day).  
13. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Four (4) Puff Inhalation Q4H (every 4 hours) as needed for 
wheezes.  
14. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML ___ QID 
(4 times a day) as needed for thrush.  
15. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet ___ 
(___).  
16. Therapeutic Multivitamin     Liquid Sig: One (1) Tablet ___ 
___.  
17. Folic Acid 1 mg Tablet Sig: One (1) Tablet ___. 
 
18. Atenolol 25 mg Tablet Sig: One (1) Tablet ___.  

19. Trazodone 50 mg Tablet Sig: 0.5 Tablet ___ HS (at bedtime) as 
needed for insomnia.  
20. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
21. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML ___ TID (3 
times a day): titrate to ___ BMs per day.  
22. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet ___ 
(___).  
23. Multivitamin     Tablet Sig: One (1) Tablet ___ 
(___).  
24. Hydromorphone 2 mg Tablet Sig: One (1) Tablet ___ every four 
(4) hours as needed for pain.  
25. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule ___ BID 
(2 times a day): ___ hold if stools loose.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
GI bleed.
High output ascites
malnutrition
UTI
Acute on Chronic renal failure: resolved
.
Secondary:
s/p liver transplant (___).

 
Discharge Condition:
alert and oriented to person, place and time. Ambulatory with 
supervision. Fall risk

 
Discharge Instructions:
Please call the Transplant Office ___ if you experience 
any of the warning signs listed below
You will be going to ___ Rehab
Labs should be drawn twice weekly on ___ and ___
You will require IV albumin every other day
Tube feeds via post pyloric feeding tube
Wound VAC, primarily for ascites drainage
PICC line in place, care per facility protocol
 
Followup Instructions:
___